* source BBCIRCUIT_SIMULATION
R_R2         N81040 0  40 TC=0,0 
V_V2         N81188 0  
+SIN 0 20 60 0 0 0
L_L3         N81036 0  1  
L_L4         N81040 0  20  
Kn_K1         L_L3 L_L4     1
R_R1         N81188 N81036  0.1 TC=0,0 
R_R3         N85167 0  1k TC=0,0 
V_V1         N85167 0  
+PULSE 0 5 0.01us 0.0001us 0.0001us 0.8us 1us
